US05616586
To a solution of diethylphosphonoacetic acid diethyl ester (10.6 g, 47.1 mmol) in THF (100 mL) was added potassium tert-butoxide (5.04 g, 44.9 mmol) at 0° C. The mixture was stirred for 20 min at room temperature. To the solution was added dropwise N-ethoxalyl-2-formyltetrahydroquinoline (11.18 g, 42.8 mmol)in THF (120 mL) at 0° C. After the complete addition, the mixture was stirred for 15 min at room temperature and water and a small amount of diluted hydrochloric acid were added. The mixture was extracted with ethyl acetate. The organic layer was washed three times with brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 4:1 to 3:1 hexane/ethyl acetate to give 7.63 g of N-ethoxalyl-2-ethoxycarbonylethenyltetrahydroquinoline (54%): 1H NMR (270 MHz, CDCl3) δ7.15 (m, 4H), 6.79 (dd, 1H, J=16, 5 Hz), 5.89 (dd, 1H, J=16, 2 Hz), 5.31 (m, 1H), 4.12 (q, 2H, J=7 Hz), 2.73 (t, 2H, J=6 Hz), 2.47 (m, 1H), 1.69 (m, 1H), 1.25 (t, 3H, J=7 Hz), 1.11 (t, 3H, J=7 Hz).

reactant | potassium tert-butoxide | 44.9 mmol, 5.04 g | CC(C)([O-])C.[K+]
reactant | N-ethoxalyl-2-formyltetrahydroquinoline | 42.8 mmol, 11.18 g | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)C=O | C14H17NO4
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 120 mL | C1CCOC1 | C4H8O
product | N-ethoxalyl-2-ethoxycarbonylethenyltetrahydroquinoline | 7.63 g, 54% | C(=O)(C(=O)OCC)N1C(CCC2CC=CC=C12)C=CC(=O)OCC | C18H23NO5
